US09085555B2
B. (5-Bromo-3-chloro-2-fluoro-benzyl)-carbamic acid tert-butyl ester
To a solution of 5-bromo-3-chloro-2-fluoro-benzylamine (10.6 g, 44.3 mmol) in dioxane/H2O 3:1 (280 mL) was added Boc2O (10.3 mL, 44.3 mmol) and NaHCO3 (11.2 g, 133 mmol). The reaction mixture was stirred at RT for 60 h. Volatiles were then removed under reduced pressure, the residue was taken up in water, and the aqueous layer was extracted twice with EtOAc (200 mL). The organics were dried (Na2SO4), filtered and evaporated in vacuo to afford the title compound as a white solid. MS (LC/MS): 284.0 [M+H]+; tR (HPLC conditions c): 5.98 min. The material thus obtained was used directly in the next step without further purification.

reactant | 5-bromo-3-chloro-2-fluoro-benzylamine | 44.3 mmol, 10.6 g | BrC=1C=C(C(=C(CN)C1)F)Cl | C7H6BrClFN
reactant | Boc2O | 44.3 mmol, 10.3 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | 133 mmol, 11.2 g | C(=O)(O)[O-].[Na+]
solvent | dioxane H2O | 280 mL | O1CCOCC1.O
product | (5-Bromo-3-chloro-2-fluoro-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)Br)Cl)F)=O | C12H14BrClFNO2
